US09260416B2
Step 6: [4-(6-Chloro-7-fluoro-2-methyl-1H-indol-3-ylsulfanyl)-pyrazol-1-yl]-acetic acid ethyl ester
Prepared according to the procedure described in Example 1, Step 4, using the following starting materials: [4-(2-oxo-propylsulfanyl)-pyrazol-1-yl]-acetic acid ethyl ester and 3-chloro-2-fluorophenylhydrazine hydrochloride.

reactant | [4-(2-oxo-propylsulfanyl)-pyrazol-1-yl]-acetic acid ethyl ester | C(C)OC(CN1N=CC(=C1)SCC(C)=O)=O | C10H14N2O3S
reactant | 3-chloro-2-fluorophenylhydrazine hydrochloride | Cl.ClC=1C(=C(C=CC1)NN)F
product | [4-(6-Chloro-7-fluoro-2-methyl-1H-indol-3-ylsulfanyl)-pyrazol-1-yl]-acetic acid ethyl ester | C(C)OC(CN1N=CC(=C1)SC1=C(NC2=C(C(=CC=C12)Cl)F)C)=O | C16H15ClFN3O2S
